US08049016B2
Synthesis of 2-(1-(cyclopropylmethyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methyl-N-(pyridin-4-ylmethyl)thiazole-5-carboxamide
To a solution of 2-(1-(cyclopropylmethyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methylthiazole-5-carboxylic acid (0.15 g, 0.53 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.14 g, 0.69 mmol) and N,N-diisopropylethylamine (0.09 mL, 0.69 mmol) in N,N-dimethylformamide (10 mL) was added 1-hydroxybenzotriazole (0.09 g, 0.69 mmol). The resulting mixture was stirred at ambient temperature for 15 minutes, followed by the addition of 4-aminomethylpyridine (0.07 mL, 0.69 mmol). The reaction mixture was kept stirring at ambient temperature for 20 hours, diluted with ethyl acetate (200 mL) and washed with water and brine. The organic solution was dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated in vacuo and the residue was purified by column chromatography to afford the title compound in 49% yield (0.10 g): mp 169-170° C.; 1H NMR (300 MHz, CDCl3) δ 8.64-8.48 (m, 2H), 8.28-8.25 (m, 1H), 7.26-7.20 (m, 2H), 6.22 (t, J=5.8 Hz, 1H), 4.60 (d, J=5.8 Hz, 2H), 3.71 (d, J=7.2 Hz, 2H), 2.67 (s, 3H), 1.30-1.17 (m, 1H), 0.62-0.54 (m, 2H), 0.43-0.135 (m, 2H); MS (ES+) m/z 371.2 (M+1).

reactant | 2-(1-(cyclopropylmethyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methylthiazole-5-carboxylic acid | 0.53 mmol, 0.15 g | C1(CC1)CN1N=CN(C1=O)C=1SC(=C(N1)C)C(=O)O | C11H12N4O3S
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.69 mmol, 0.14 g | Cl.CN(CCCN=C=NCC)C
reactant | N,N-diisopropylethylamine | 0.69 mmol, 0.09 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-hydroxybenzotriazole | 0.69 mmol, 0.09 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 4-aminomethylpyridine | 0.69 mmol, 0.07 mL | NCC1=CC=NC=C1 | C6H8N2
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 2-(1-(cyclopropylmethyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methyl-N-(pyridin-4-ylmethyl)thiazole-5-carboxamide | 49% yield | C1(CC1)CN1N=CN(C1=O)C=1SC(=C(N1)C)C(=O)NCC1=CC=NC=C1 | C17H18N6O2S
